US06642233B1
A) 1-(4-Pyridyl)cyclopropanecarbonitrile
3.5 g of 4-pyridylacetonitrile are added to a mixture of 2.5 g of sodium amide in 80 ml of DCM, followed by 2.6 ml of 1,2-dibromoethane, and the mixture is stirred overnight at RT. The reaction mixture is poured into water and extracted with EtOAc, the organic phase is washed with water and dried over Na2SO4, and the solvents are evaporated off under vacuum. The residue is chromatographed on silica gel, eluting with DCM and then with a DCM/MeOH mixture from (99/1; v/v) to (95/5; v/v). 2.5 g of the expected product are obtained.

reactant | 4-pyridylacetonitrile | 3.5 g | N1=CC=C(C=C1)CC#N | C7H6N2
reactant | sodium amide | 2.5 g | [NH2-].[Na+]
reactant | 1,2-dibromoethane | 2.6 ml | BrCCBr | C2H4Br2
reactant | water | O | H2O
solvent | DCM | 80 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-Pyridyl)cyclopropanecarbonitrile | 2.5 g | N1=CC=C(C=C1)C1(CC1)C#N | C9H8N2
